US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (50 mg, 0.193 mmol), 3,5-difluorobenzylamine (0.026 mL, 0.212 mmol), Pd2(dba)3 (6 mg, 0.0066 mmol), rac-BINAP (18 mg, 0.029 mmol) and NaOt-Bu (46 mg, 0.482 mmol) in DMA (3 mL) was heated at 80° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(3,5-difluoro -benzylamino)-2H-phthalazin-1-one (3 mg) as a brown solid, 1H (400 MHz, CDCl3) δ: 4.41 (s, 2H), 6.67 (m, 1H), 6.83 (m, 3H), 6.96 (dd, 1H), 8.10 (d, 1H), 9.58 (s, 1H) ppm; m/z (M+1) 321.98.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.193 mmol, 50 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3,5-difluorobenzylamine | 0.212 mmol, 0.026 mL | FC=1C=C(CN)C=C(C1)F | C7H7F2N
reactant | rac-BINAP | 0.029 mmol, 18 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 0.482 mmol, 46 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0066 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(3,5-difluoro -benzylamino)-2H-phthalazin-1-one | 3 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC(=C1)F)F)=O | C15H10ClF2N3O
